datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11]1=[CH:10]CCCC1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH:10]2CCCC[C:11]2=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C=C(C)CCC[C:11](C)=[CH2:10]>>C=C(C)CCC[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20"
"C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.N#C[CH:20]([H:10])[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.COC1=CC=CC(OC)=C1[P:10](C1=C(OC)C=CC=C1OC)C1=C(OC)C=CC=C1OC>>COC1=CC=CC(OC)=C1[P+:10](C1=C(OC)C=CC=C1OC)(C1=C(OC)C=CC=C1OC)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.COCC[NH:10]CCOC>>COCC[NH+:10](CCOC)[C:20]([S-:21])=[N:31]C1=CC=CC=C1 10=20;20,21=21"
"C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1.[N:10]1=[C:11]([O-:12])[CH:71]=[CH:72][C:61]1=[O:62]>>C[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2[C:11](=[O:12])[CH:71]=[CH:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[Si:11](C(C)C)(C(C)C)[H:10].Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>CC(C)[Si+:11](C(C)C)C(C)C.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([H:10])[O-:21] 10,11=10,20;20,21=21"
"C[C:10](C)=[N+:11]([O-:12])[O-:62].C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:10](C)([N+:11](=[O:12])[O-:62])[CH2:20][CH:21]=[C:22]([O-:23])[O:33]C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.[CH:10]1([Na:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1.[Na+:11] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C1C[CH:63]=[CH:62][CH:11]=[CH:10]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C1C[CH:63]=[CH:62][CH+:11][CH:10]1[F:20] 10,11=10,20;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C>>C1C[CH:32]=[CH:31][C:20]1([CH3:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C 10,11=10,20"
"C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[Si:63]1(C)CCCC[CH+:11][CH2:62]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11](C)=[CH2:10].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[C:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCC2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]1CC[C:22]([O-:23])=[CH:21]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
